US07994179B2
Intermediate 6-5: cis-4-[(5-Bromopyridin-2-yl)oxy]cyclohexanecarboxylic acid
A solution of (1S,4S)-4-hydroxycyclohexanecarboxylic acid (2.14 g, 14.9 mmol) in DMA (10 mL) was added to a stirred suspension of NaH (1.32 g, 30.2 mmol) in DMA (15 mL) at 0° C. where it was stirred for 10 min. The suspension was taken off the cooling bath and 5-bromo-2-fluoropyridine (1.53 mL, 14.87 mmol, CAS 766-11-0) was added followed by DMA (10 mL). The reaction was heated at 100° C. for 2.5 h. The solvent was evaporated and DCM and 2M HCl were added, the phases separated and the aqueous phase was extracted with DCM (2×50 mL). The combined organics were dried over MgSO4, filtered and evaporated. The remaining crude was purified by flash chromatography using 5-75% EtOAc (1% HOAc) in heptane to afford the title compound (1.86 g, 42%) as solid.

reactant | (1S,4S)-4-hydroxycyclohexanecarboxylic acid | 14.9 mmol, 2.14 g | C1CC(CCC1C(=O)O)O | C7H12O3
reactant | NaH | 30.2 mmol, 1.32 g | [H-].[Na+]
reactant | 5-bromo-2-fluoropyridine | 14.87 mmol, 1.53 mL | BrC=1C=CC(=NC1)F | C5H3BrFN
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | cis-4-[(5-Bromopyridin-2-yl)oxy]cyclohexanecarboxylic acid | 1.86 g, 42% | BrC=1C=CC(=NC1)O[C@H]1CC[C@H](CC1)C(=O)O | C12H14BrNO3
